US06515011B2
To a stirred solution of ethyl (2E)-3-[3-(tert-butoxycarbonyl)phenyl]prop-2-enoate from the previous step (3.44 g, 12.4 mmol) in EtOH (30 mL), was added 1N NaOH (15 mL, 15 mmol) and the mixture was stirred for 2 hours. The reaction was concentrated under reduced pressure to ˜20 mL, acidified with 10% aqueous citric acid and extracted with 2×100 mL EtOAc. The organic layer was washed with brine, dried over MgSO4, filtered and the solvent removed under reduced pressure to give (2E)-3-[3-(tert-butoxycarbonyl)phenyl]prop-2-enoic acid as an oil which solidified on standing (3.1 g, 100%). HPLC RT=2.43 min, method B; 1H NMR, 400 MHz, CDCl3, 8.16, (s, 1H); 8.03 (d, J=8 Hz, 1H); 7.81, (d, J=16 Hz, 1H); 7.70, (d, J=8 Hz, 1H); 7.47 (t, J=8 Hz, 1H); 6.52 (d, J=16 Hz, 1H); 1.62 (s, 9H).

reactant | ethyl (2E)-3-[3-(tert-butoxycarbonyl)phenyl]prop-2-enoate | C(C)(C)(C)OC(=O)C=1C=C(C=CC1)/C=C/C(=O)OCC | C16H20O4
reactant | NaOH | 15 mmol, 1N, 15 mL | [OH-].[Na+]
solvent | EtOH | 30 mL | CCO | C2H6O
product | (2E)-3-[3-(tert-butoxycarbonyl)phenyl]prop-2-enoic acid | C(C)(C)(C)OC(=O)C=1C=C(C=CC1)/C=C/C(=O)O | C14H16O4
